US08431596B2
[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-323)
In a microwave vial, 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.05 g, 0.17 mmol), 1-[2-(4-bromophenoxy)ethyl]-pyrrolidine (0.068 g, 0.251 mmol), bis(dibenzylideneacetone)palladium (0.005 g, 0.008 mmol), Xantphos (0.01 g, 0.017 mmol) and sodium tert-butoxide (0.033 g, 0.335 mmol) were added successively. Dioxane (1.2 mL) and dimethylacetamide (2 drops) were added and the vial was sealed and heated in the microwave (150° C., 10 min). The crude was purified using an SCX cartridge, by washing with methanol and releasing the compound with 2M ammonia in methanol. After concentration under reduced pressure, the crude was purified by preparatory LCMS. LCMS Method: 2: RT: 2.52 min, MI: 488 [M+1].

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.17 mmol, 0.05 g | O1CCOC2=C1C=CC(=C2)C2=C(C=CC=1N2N=C(N1)N)OC | C15H14N4O3
reactant | 1-[2-(4-bromophenoxy)ethyl]-pyrrolidine | 0.251 mmol, 0.068 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | Xantphos | 0.017 mmol, 0.01 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.335 mmol, 0.033 g | CC(C)([O-])C.[Na+]
catalyst | dimethylacetamide | 2 drops | CC(=O)N(C)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium | 0.008 mmol, 0.005 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | Dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | [5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | O1CCOC2=C1C=CC(=C2)C2=C(C=CC=1N2N=C(N1)NC1=CC=C(C=C1)OCCN1CCCC1)OC | C27H29N5O4
